*Component Created by Javier Petrucci and Agustin Gullino
* jpetrucc@itba.edu.ar / agullino@itba.edu.ar
*
.SUBCKT amp_z 1 2 3 4
V1 3 4 0
B1 1 2 V={Z}*I(V1)
.ENDS


