.SUBCKT BUZ80A 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 3.9
RS 5 76 51M
D80A 76 95 DREV
.MODEL DREV D CJO=0.45N RS=20M TT=1000N IS=300P BV=800
M80A 86 11 76 96 MBUZ
.MODEL MBUZ NMOS VTO=3.525 KP=2.996
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 86 11 8 8 MSW
COX 11 8 2.3N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.171N M=0.545 VJ=1.022
CGS 76 11 1.55N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-26.5 KP=0.014
LG 4 1 7N
.ENDS