* Component Created by Javier Petrucci and Santiago López
* ITBA
*
*OA, Signal Model
* Connections: 
*                Non-Inverting Input
*                |   Inverting Input
*                |   |   
*                |   |   |   
*                |   |   |   |   Output
*                |   |   |   |   |
.SUBCKT OA_Signal 1   2   3   4   5
R1 1 2 {ri}
E1 N001 0 2 1 {A}
R2 N001 5 {ro}
.ends OA_Signal
*