**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT tip115 1 2 3
* Model generated on Feb  7, 2004
* Model format: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=1
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.06519e-10
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=7.52168e-12 BF=910.194 NF=1.03294 VAF=30
+IKF=0.0436024 ISE=2.55585e-10 NE=1.70431 BR=11.6287
+NR=0.75 VAR=53.3008 IKR=0.107788 ISC=1.0025e-13
+NC=2.00098 RB=2.87325 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.44643 XTI=2.56788 EG=1.05
+CJE=1.99688e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.271394 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS