* modulo_P by Nico Beade nbeade@itba.edu.ar

.SUBCKT modulo_P Vin Vout


C1 Vout N002 {C}
R1 N001 Vin {R}
L1 N002 N001 {L}


.param R = 100
.param C = 10u
.param L = 1m


.ends modulo_P
