* Component Created by Javier Petrucci and Agustin Gullino
* jpetrucc@itba.edu.ar / agullino@itba.edu.ar
*
* This is the dual supply
*
*  1---+Vcc
*  |
*  |
*  |3------ GND
*  |
*  |
*  2----Vcc
*
.SUBCKT supply 1 2 3
V01 1 3 {Vp}
V02 3 2 {Vn}
.ENDS


