* Component by Agustin Gullino, Electronics Engineering Student at ITBA
* email: agullino@itba.edu.ar

.subckt XtalV2 n1 n2 PARAMS: Cm=0.1p Lm=1m Rs=10k Cp=4p

* 1rst order Tune
CM n1 ni1 {Cm}
LM ni1 ni2 {Lm}
RS ni2 n2 {Rs}
CP n1 n2 {Cp}

* 3rd order OverTune
CM3 n1 n31 {Cm/9}
LM3 n31 n32 {Lm}
RS3 n32 n2 {Rs}

* 5th order OverTune
CM5 n1 n51 {Cm/25}
LM5 n51 n52 {Lm}
RS5 n52 n2 {Rs}
.ends XtalV2 
